US06875781B2
6-(5-Chloro-2-methoxy-phenyl)-N*2*-(4-chloro-phenyl)-pyridine-2,4-diamine
Following the method described in Example 3, 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine and 4-chloro-phenylamine, provided the title compound (22% yield). 1H NMR (acetone-d6) δ 3.90 (s, 3H, CH3), 5.39 (s, 2H, NH2), 6.90 (d, 1H, J=1.7 Hz, Ar), 7.12 (d, 1H, J=8.8 Hz, Ar), 7.24 (d, 2H, J=8.9 Hz, Ar), 7.34 (dd, 1H, J=8.8 Hz, J=2.8 Hz, Ar), 7.73 (d, 2H, J=8.9 Hz, Ar), 7.91 (d, 1H, J=2.8 Hz, Ar), 8.09 (s, 1H, NH).

reactant | 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine | ClC1=NC(=CC(=C1)N)C1=C(C=CC(=C1)Cl)OC | C12H10Cl2N2O
reactant | 4-chloro-phenylamine | ClC1=CC=C(C=C1)N | C6H6ClN
product | 6-(5-Chloro-2-methoxy-phenyl)-N*2*-(4-chloro-phenyl)-pyridine-2,4-diamine | 22% yield | ClC=1C=CC(=C(C1)C1=CC(=CC(=N1)NC1=CC=C(C=C1)Cl)N)OC | C18H15Cl2N3O
